US08278343B2
Preparation 61: 3-[5-(4-Chloro-phenyl)-pyrazin-2-yloxymethyl]-1-(2-ethoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 5-(4-chloro-phenyl)-pyrazin-2-ol (Preparation 25) and 1-(2-ethoxy-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 16) to afford the racemate as a white solid (86 mg, 30%)

reactant | 5-(4-chloro-phenyl)-pyrazin-2-ol | ClC1=CC=C(C=C1)C=1N=CC(=NC1)O | C10H7ClN2O
reactant | 1-(2-ethoxy-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OCC)=O)CI | C17H22INO4
product | 3-[5-(4-Chloro-phenyl)-pyrazin-2-yloxymethyl]-1-(2-ethoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OCC)=O)COC1=NC=C(N=C1)C1=CC=C(C=C1)Cl | C27H28ClN3O5
